US05753664
5-Tert-butyl-1-[4-(4-chlorobenzoyl)benzyl]-3-methyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one
In DMF (10 ml) was dissolved 5-t-butyl-3-methyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one (516 mg) followed by addition of 4-(4-chlorobenzoyl)benzyl bromide (1.2 g) and potassium carbonate (525 mg), and the mixture was stirred at room temperature for 15 hours. This reaction mixture was extracted with ethyl acetate-THF and the organic layer was serially washed with water and saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=1:1), washed with n-hexane-diethyl ether, and dried. White powder, 527 g.

reactant | 5-t-butyl-3-methyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one | 516 mg | C(C)(C)(C)N1N=CC2=C(C1=O)C(=NN2)C | C10H14N4O
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.2 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | potassium carbonate | 525 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Tert-butyl-1-[4-(4-chlorobenzoyl)benzyl]-3-methyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one | C(C)(C)(C)N1N=CC2=C(C1=O)C(=NN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)C | C24H23ClN4O2
